US08957203B2
Step 7: Preparation of (2S,4R)-methyl 1-((2S,3R)-2-(tert-butoxycarbonylamino)-3-ethyl-5-methylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate
To a solution of (3R)-2-(tert-butoxycarbonylamino)-3-ethyl-5-methylnon-8-enoic acid (2 g, 6.38 mmole) in dichloromethane (20 mL) was added DIPEA (1.93 mL, 19.19 mmole), HATU (2.42 g, 6.38 mmole) followed by (2S,4R)-methyl 4-hydroxypyrrolidine-2-carboxylate (1.15 g, 6.38 mmole) at room temperature. The reaction mixture was stirred at room temperature for 2 h. The reaction mass was diluted with DCM and washed with water. The organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure to get crude compound. The crude compound was taken to the next step without further purification (1.5 g, 53.4%). MS: MS m/z 441.6 (M++1)

reactant | (3R)-2-(tert-butoxycarbonylamino)-3-ethyl-5-methylnon-8-enoic acid | 6.38 mmole, 2 g | C(C)(C)(C)OC(=O)NC(C(=O)O)[C@@H](CC(CCC=C)C)CC | C17H31NO4
reactant | DIPEA | 19.19 mmole, 1.93 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 6.38 mmole, 2.42 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2S,4R)-methyl 4-hydroxypyrrolidine-2-carboxylate | 6.38 mmole, 1.15 g | O[C@@H]1C[C@H](NC1)C(=O)OC | C6H11NO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (2S,4R)-methyl 1-((2S,3R)-2-(tert-butoxycarbonylamino)-3-ethyl-5-methylnon-8-enoyl)-4-hydroxypyrrolidine-2-carboxylate | C(C)(C)(C)OC(=O)N[C@H](C(=O)N1[C@@H](C[C@H](C1)O)C(=O)OC)[C@@H](CC(CCC=C)C)CC | C23H40N2O6
